### PR TITLE
feat: Infinitely many Pell primes

### LINKED ISSUE #1779: Wikipedia: Infinite Pell Primes
### What is the conjecture

There are infinite integer numbers that are both prime and in the Pell sequence.

* https://en.wikipedia.org/wiki/Pell_number#Primes_and_squares
* https://oeis.org/A086383
* https://oeis.org/A096650

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by felixpernegger**
Closes #1779.

### CODE REVIEW

File: FormalConjectures/Wikipedia/Pell.lean [hunk 1]
```diff
@@ -0,0 +1,69 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Pell.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```
https://i.kym-cdn.com/entries/icons/original/000/007/784/what-year-is-it-robin-williams.jpg

File: FormalConjectures/Wikipedia/Pell.lean [hunk 2]
```diff
@@ -0,0 +1,69 @@
...
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Infinitude of Pell number primes
+
+*Reference:*
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Pell.lean]:
```suggestion
*References:*
```

File: FormalConjectures/Wikipedia/Pell.lean [hunk 3]
```diff
@@ -0,0 +1,69 @@
...
+ - [OEIS A086383](https://oeis.org/A086383)
+
+The Pell numbers $P_n$ are defined by $P_0 = 0$, $P_1 = 1$, $P_{n+2} = 2*P_{n+1} + P_n$
+
+The conjecture says that there are infinitely many prime Pell numbers.
+-/
+
+namespace PellNumbers
+
+/-- The *Pell numbers* $P_n$ are defined by $P_0 = 0$, $P_1 = 1$, $P_{n+2} = 2*P_{n+1} + P_n$ -/
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Pell.lean:34]: potentially link https://oeis.org/A000129 here?

File: FormalConjectures/Wikipedia/Pell.lean [hunk 4]
```diff
@@ -0,0 +1,69 @@
...
+def pell : ℕ → ℕ
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Pell.lean]:
```suggestion
def pellNumber : ℕ → ℕ
```

In analogy with `fermatNumber`? On the other hand `fib` is for Fibonacci number, so it is already inconsistent, I guess..

File: FormalConjectures/Wikipedia/Pell.lean [hunk 5]
```diff
@@ -0,0 +1,69 @@
...
+theorem pell_two : pell 2 = 2 := rfl
+
+@[category test, AMS 11]
+theorem pell_five : pell 5 = 29 := rfl
+
+/-- Similar to Fibonacci numbers, there exist numerous identites around Pell numbers, i.e.
+P_{2n+1} = P_n ^ 2 + P_{n+1} ^ 2 -/
+@[category high_school, AMS 11]
+theorem pell_sq_add_pell_succ_sq (n : ℕ) : pell (2 * n + 1) = pell n ^ 2 + pell (n + 1) ^ 2 := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Pell.lean:57]:
```suggestion
  induction n using Nat.twoStepInduction with
  |zero
  |one => constructor
  |more =>
    simp_all! only [mul_add, mul_one, add_assoc, Nat.reduceAdd, Nat.reduceMul]
    linarith
```
perhaps add the proof?

File: FormalConjectures/Wikipedia/Pell.lean (hunk 1 above)
Comment (felixpernegger) [reply FormalConjectures/Wikipedia/Pell.lean]: Thanks, I actually made this mistake multiple times

File: FormalConjectures/Wikipedia/Pell.lean (hunk 5 above)
Comment (felixpernegger) [reply FormalConjectures/Wikipedia/Pell.lean:57]: nice

File: FormalConjectures/Wikipedia/Pell.lean (hunk 4 above)
Comment (felixpernegger) [reply FormalConjectures/Wikipedia/Pell.lean]: Yes good idea. ```Pell``` is in mathlib for a related concept, which is not quite the same, so it is probably a good idea to differentiate.

File: FormalConjectures/Wikipedia/Pell.lean (hunk 3 above)
Comment (felixpernegger) [reply FormalConjectures/Wikipedia/Pell.lean:34]: like this? (as it is now)

Comment (mo271) [reply FormalConjectures/Wikipedia/Pell.lean:34]: no worries, it is not really important at all..
